US04827004
The product, containing (6E,10Z)-3-(tert.-butyldimethylsilyloxy)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatriene, is dissolved in 50 ml of isopropanol and treated with 350 mg of pyridinium p-toluenesulfonate. The reaction solution is stirred at room temperature for 6 hours under argon. After aqueous working-up the organic phase is dried and freed from the solvents. The residue is chromatographed on silica gel with ether-hexane 2:1. There is obtained (2Z,6E)-10-(tert.butyldimethylsilyloxy)-3,7,11-trimethyl-2,6,11-dodecatrien-1-ol which exhibits the following absorption bands in the IR spectrum: 3339 cm-1, 3071 cm-1, 1666 cm-1, 1651 cm-1, 1448 cm-1, 1251 cm-1, 1078 cm-1, 1022 cm-1, 1004 cm-1.

reactant | (6E,10Z)-3-(tert.-butyldimethylsilyloxy)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatriene | C(C)(C)(C)[Si](OC(C(=C)C)CC\C(=C\CC\C(=C/COC1OCCCC1)\C)\C)(C)C | C26H48O3Si
reactant | pyridinium p-toluenesulfonate | 350 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | (2Z,6E)-10-(tert.butyldimethylsilyloxy)-3,7,11-trimethyl-2,6,11-dodecatrien-1-ol | C(C)(C)(C)[Si](OC(CC/C(=C/CC\C(=C/CO)\C)/C)C(=C)C)(C)C | C21H40O2Si
